* 208V to 3.3V async buck, 100W
* D=3.3/208=0.0159, t_on=159n, Rload=10.89/100=0.109
Vin in 0 208
M1 in gate sw 0 NMOS W=1 L=1
D1 0 sw DIODE
L1 sw out 22u
C1 out 0 470u
Rload out 0 0.109
Vgate gate 0 PULSE(0 12 0 1n 1n 159n 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 1n 5m
.probe V(*) I(*)
.end
